US09284323B2
Preparation of ethyl 2-(7-bromo-3-methyl-1-(trifluoromethylsulfonyloxy)-naphthalen-2-yl)-2-hydroxyacetate:
To a solution of ethyl 2-(7-bromo-1-hydroxy-3-methylnaphthalen-2-yl)-2-hydroxyacetate (7.67 g, 22.6 mmol) in CH2Cl2 (50 mL) was added imidazole (3.08 g, 45.2 mmol) and chlorotriethylsilane (4.55 mL, 27.1 mmol). After 16 h, a saturated solution of NH4Cl was added. The layers were separated, and the aqueous layer was extracted with CH2Cl2. The combined organic layers were dried, filtered, concentrated to ˜50 mL of solution. The solution was cooled to −78° C., and triethylamine (1.7 eq) and trifluoromethanesulfonic anhydride (1.5 eq) were added. After 30 min, a saturated solution of NH4Cl was added. The layers were separated, and the aqueous layer was extracted with CH2Cl2. The combined organic layers were dried, filtered, concentrated. THF was added (100 mL) followed by 48% aqueous HF solution (10 mL). The reaction was stirred in a plastic vessel overnight at rt. Solid NaHCO3 was added in small portions then H2O was added to reach pH of ˜7-8. The layers were separated, and the aqueous layer was extracted with EtOAc. The combined organic layers were dried, filtered, concentrated in vacuo. The product was used without further purification. 1H-NMR: 400 MHz, (CDCl3) δ: 8.20 (s, 1H), 7.65 (m, 3H), 5.79 (s, 1H), 4.24 (m, 2H), 3.46 (br s, 1H), 2.48 (s, 3H), 1.20 (m, 3H).

reactant | ethyl 2-(7-bromo-1-hydroxy-3-methylnaphthalen-2-yl)-2-hydroxyacetate | 22.6 mmol, 7.67 g | BrC1=CC=C2C=C(C(=C(C2=C1)O)C(C(=O)OCC)O)C | C15H15BrO4
reactant | imidazole | 45.2 mmol, 3.08 g | N1C=NC=C1 | C3H4N2
reactant | chlorotriethylsilane | 27.1 mmol, 4.55 mL | Cl[Si](CC)(CC)CC | C6H15ClSi
reactant | NH4Cl | [NH4+].[Cl-]
reactant | triethylamine | 1.7 eq | C(C)N(CC)CC | C6H15N
reactant | trifluoromethanesulfonic anhydride | 1.5 eq | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | ethyl 2-(7-bromo-3-methyl-1-(trifluoromethylsulfonyloxy)-naphthalen-2-yl)-2-hydroxyacetate | BrC1=CC=C2C=C(C(=C(C2=C1)OS(=O)(=O)C(F)(F)F)C(C(=O)OCC)O)C | C16H14BrF3O6S
